US09255089B2
5-(6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)-1-methyl-1H-pyrazole-4-carboxamide
To a microwave vial containing 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (100 mg, 0.28 mmol, 1 equiv.) was added 5-bromo-1-methyl-1H-pyrazole-4-carbonitrile (130 mg, 0.30 mmol, 2.5 equiv.), Pd(dppf)Cl2.CH2Cl2 (23 mg, 0.03 mmol, 0.1 equiv.) and DBU (253 μL, 1.69 mmol, 6 equiv.) and dissolved in DMSO-H2O (4 mL, 0.2 M, 2/1, v/v). The mixture was heated to 120° C. for 30 min in microwave. The reaction was concentrated in vacuo and purification was then carried out by reverse phase HPLC.

reactant | 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.28 mmol, 100 mg, 1 equiv. | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)B1OC(C(O1)(C)C)(C)C)C | C18H22BN3O4
reactant | 5-bromo-1-methyl-1H-pyrazole-4-carbonitrile | 0.30 mmol, 130 mg, 2.5 equiv. | BrC1=C(C=NN1C)C#N | C5H4BrN3
reactant | CH2Cl2 | 0.03 mmol, 23 mg, 0.1 equiv. | C(Cl)Cl | CH2Cl2
reactant | DBU | 1.69 mmol, 253 μL, 6 equiv. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DMSO H2O | CS(=O)C.O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)-1-methyl-1H-pyrazole-4-carboxamide | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C1=C(C=NN1C)C(=O)N)C | C17H16N6O3
